US04242507
N-Benzyloxycarbonyl-L-valine (1.26 g), glycine ethyl ester hydrochloride (0.70 g) and triethylamine (1.40 ml) are dissolved in anhydrous chloroform (10 ml), and thereto is added 1-methanesulfonyloxy-1,2,3-benzotriazole (1.05 g) with stirring under ice-cooling. After stirrig at room temperature for 20 hours, to the reaction mixture are added water and ethyl acetate. The ethyl acetate layer is separated, washed and dried. After drying, the solvent is distilled off to give N-(N-benzyloxycarbonyl-L-valyl)glycine ethyl ester hydrochloride (1.1 g), melting point: 162°-165° C.

reactant | N-Benzyloxycarbonyl-L-valine | 1.26 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | glycine ethyl ester hydrochloride | 0.70 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methanesulfonyloxy-1,2,3-benzotriazole | 1.05 g | CS(=O)(=O)ON1N=NC2=C1C=CC=C2 | C7H7N3O3S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(N-benzyloxycarbonyl-L-valyl)glycine ethyl ester hydrochloride | 1.1 g | Cl.C(C)OC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | InChI=1S/C17H24N2O5.ClH/c1-4-23-14(20)10-18-16(21)15(12(2)3)19-17(22)24-11-13-8-6-5-7-9-13;/h5-9,12,15H,4,10-11H2,1-3H3,(H,18,21)(H,19,22);1H/t15-;/m0./s1
